Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Aleve / Codeine / Neurontin / Avinza
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with multiple medical problems including 
severe CHF with regurgitation of all valves recently referred to 
cardiac hospice, AF (on coumadin), hypothyrodism, malignant 
melanoma x 2 who presented from assisted living s/p unwitnessed 
fall p/w severe back pain.  She reportedly fell backwards using 
a walker and hit her head.  Her daughter reports that the day 
before the fall the patient's weight was up 6lbs, so she doubled 
(the daughter) the ___ from 2.5mg to 5.0mg, she monitored 
her for the rest of the evening and then this morning she when 
she spoke to her mom she c/o of feeling dizzy.  Extensive 
discussions w/ daughter (HCP) who does not want to pursue 
aggressive workup for injuries. Patient has been ambulatory at 
her assisted living facility.

In the ED, VS  were 96.2 64 124/60 16 100% 15L.  Labs were 
remarkable for INR 2.6, K 3.1, Cr 1.2 (baseline 1.0-1.2). CT 
head, spine and pelvis were negative for acute process. CXR 
showed right pleural effusion and cardiomegaly, mild-mod 
pulmonary edema.  She was treated with Fentanyl 12.5mcg and 
Potassium ___.

Vitals on transfer: 97.3 69 116/58 18 94%RA 

On the floor, vs were: T P BP R O2 sat  Patient resting 
comfortably in bed with family by her side from whom most of the 
history was obtained.  She was in NAD and appeared comfortable, 
speaking in full sentences.
  

 
Past Medical History:
1.  Lower left extremity edema.
2.  Atrial fibrillation.
3.  Cellulitis.
4.  Congestive heart failure.
5.  Depression.
6.  Anxiety.
7.  Hypothyroidism.
8.  Osteoporosis.
9.  Malignant melanoma x2.  
10.  Pericarditis.
11.  Basal cell carcinoma.
12.  Multiple fractures.
13.  Hyperparathyroidism.

 
Social History:
___
Family History:
Two deceased sisters with history of heart
disease and cervical cancer

She had two sisters, one older and one younger, both of them 
have died, one died of cervical cancer and one died of heart 
disease. They both lived to be quite elderly. Healthcare proxy 
was confirmed to be her daughter ___. The patient is 
competent and makes her own decisions, although she would like 
all communication to be done through ___.  

 
Physical Exam:
Physical exam at admission:
Vitals: T:97.9 BP:110/66 P:70 R:18 O2:96%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: b/l crackles over lower lung fields.  
CV: Irregularly irregular, normal S1 + S2, no rubs, gallops  
Abdomen: soft, minimal tenderness of RLQ, non-distended, owel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
Back: Tender to palpation over thoracic vertebrae.  Lateral 
muscles with pain radiating to spine with palpation.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  RLE pressure ulcer
Neuro:  CN II-XII grossly intact, sensation, strength grossly 
normal.  Gait not assessed.

Physical exam at discharge:
Vitals: 97.7  94/57  69  24  94%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: b/l crackles over lower lung fields.  
CV: Irregularly irregular, no rubs or gallops  
Abdomen: soft, minimal tenderness of RLQ, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
Back: Tender to palpation over thoracic vertebrae.  Lateral 
muscles with pain radiating to spine with palpation.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  RLE pressure ulcer wrapped in ACE bandage this morning; 
erythematous skin changes on LLE from ankle to level of knee
Neuro:  CN II-XII grossly intact, sensation, strength grossly 
normal.  

 
Pertinent Results:
Labs on admission:

___ 11:38AM BLOOD ___ PTT-38.3* ___
___ 11:38AM BLOOD Neuts-81.5* Lymphs-10.9* Monos-6.6 
Eos-0.4 Baso-0.7
___ 11:38AM BLOOD WBC-6.7 RBC-4.10* Hgb-12.8 Hct-38.4 
MCV-94 MCH-31.2 MCHC-33.4 RDW-15.9* Plt ___
___ 11:38AM BLOOD Glucose-109* UreaN-39* Creat-1.2* Na-139 
K-3.1* Cl-98 HCO3-31 AnGap-13
___ 11:38AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.5

Labs at discharge:

___ 07:10AM BLOOD ___ PTT-40.4* ___
___ 07:10AM BLOOD Glucose-86 UreaN-44* Creat-1.2* Na-141 
K-3.4 Cl-99 HCO3-35* AnGap-10
___ 07:10AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.3

IMAGING:

CXR ___:
IMPRESSION: Mild-to-moderate interstitial pulmonary edema with a 
moderate right pleural effusion and increased moderate 
cardiomegaly. 

R proximal humerus fracture on CXR is old from ___
 
CT Head w/o contrast ___:
No acute intracranial process.

CT Spine w/o contrast ___:
No acute fracture or change in alignment. New moderate right 
pleural effusion and evidence of mild interstitial pulmonary 
edema.

Xray Pelvis ___:
Subtle lucency extending through the superior cortex of the 
right femoral neck, possibly representing a non-displaced 
fracture. If there is a high level of concern for fracture, 
further evaluation with CT could be performed.

CT Pelvis w/o Contrast ___:
No acute fracture or dislocation. Small quantity of free fluid 
in the right abdomen with extention to the pelvis. In the right 
lower abdominal quadrant, adjacent to the free fluid, there is a 
partially imaged ovoid structure, possibly the gallbladder, 
although this structure could represent a complex component of 
the free fluid. Further evaluation with ultrasound or CT could 
be performed.

DISCHARGE LABS:
___ 07:10AM BLOOD ___ PTT-40.4* ___
___ 07:10AM BLOOD Glucose-86 UreaN-44* Creat-1.2* Na-141 
K-3.4 Cl-99 HCO3-35* AnGap-10
___ 07:10AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.___ woman with multiple medical problems including severe CHF, AF 
(on coumadin), hypothyrodism, malignant melanoma x 2 who 
presented from assisted living s/p unwitnessed fall -- likely 
due to hypovolemia. Course has been complicated by 
supertherapeutic INR.

ACTIVE ISSUES:

# Back pain s/p fall: At admission she presented from assisted 
living s/p unwitnessed fall p/w severe back pain.  CT head, 
pelvis and spine negative for acute fracture after fall. On the 
floor she was medically managed with pain control -- received 
standing tylenol, PRN vicodin and lidocaine patches. It was 
thought that the fall occurred in the setting of hypovolemia; pt 
is on lasix for CHF with metolazone PRN for weight gain but 
received 5 mg of metolazone instead of the 2.5 mg that was 
prescribed. Patient complained of dizziness when standing during 
admission and was unable to stand long enough to complete 
orthostatic vital signs. Her daughter, her health care proxy, 
did not want to pursue aggressive workup for injuries or 
etiology of fall.  Pt was evaluated by physical therapy and 
rehab was recommended following discharge.  She should continue 
standing tylenol and PRN hydrocodone-acetaminophen for 
breakthrough pain.  Metolazone was discontinued to avoid further 
episodes of orthostasis from hypovolemia.

# Atrial Fibrillation - CHADS2 = 2: Rate-controlled with 
atenolol and on coumadin prior to this admission.  Her atenolol 
was continued during this admission.  Her INR was checked with 
daily labs and was found to be supratherpeutic on ___ to 
4.7. Her coumadin was held for 2 days ___ & ___ and will not 
be restarted at discharge (on day of discharge, INR 4.1).  She 
will need to have her INR checked daily for the next few days 
and warfarin should be restarted when INR <3.0 (prior warfarin 
schedule was 2.5 mg daily except 5 mg on ___.

CHRONIC ISSUES:

# Chronic Diastolic Heart Failure - severe, on cardiac hospice.  
At admission had crackles on exam but was not overtly fluid 
overloaded. O2 saturations were maintained above 92%.  She was 
continued on home lasix, spironolactone, and beta blocker. 
Metolazone was taken PRN prior to admission for weight gain, but 
given hypovolemia is likely etiology of falls, this was 
discontinued at discharge.  If patient gains weight or is short 
of breath, would consider restarting metolazone following 
discharge.
  
# RLE ulcer: Stable during this admission. Called a wound care 
consult who recommended using 6" ace wrap RLE start below toes 
to below ankle in spiral fashion - on in am, and off pm.

# Hypothyroidism: stable during this admission. Continued home 
dose of levothyroxine.
  
TRANSITIONAL ISSUES:
- will need INR checked daily as she was supratherapeutic with 
INR at 4.1 at the time of discharge and coumadin was held.  
Restart coumadin when INR <3.0
- Metolazone was discontinued on discharge due to hypovolemia, 
should consider restarting if pt experiences weight gain or 
dyspnea.
# CODE: DNR/DNI (confirmed)
# CONTACT: ___ (daughter) 
___ 

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/Caregiver.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Furosemide 40 mg PO BID 
hold for SBP<90 
3. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
Hold for K >5.0 
4. Warfarin 2.5 mg PO 6X/WEEK (___) 
5. Warfarin 5 mg PO 1X/WEEK (FR) 
6. Atenolol 50 mg PO DAILY 
7. Metolazone 2.5 mg PO PRN leg swelling 
8. Calcium Carbonate 1800 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Ascorbic Acid ___ mg PO DAILY 
12. Senna 3 TAB PO HS 
13. Systane *NF* (peg 400-propylene glycol) 0.4-0.3 % ___ TID 
14. Spironolactone 25 mg PO UNDEFINED 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Calcium Carbonate 1800 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO BID 
5. Furosemide 40 mg PO BID 
hold for SBP<90 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
Hold for K >5.0 
9. Senna 3 TAB PO HS 
10. Spironolactone 25 mg PO 4X/WEEK (___) 
Hold for SBP<90, K>5.0 
11. Systane *NF* (peg 400-propylene glycol) 0.4-0.3 % ___ TID 
12. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q4H:PRN 
pain 
RX *hydrocodone-acetaminophen 5 mg-500 mg ___ tablet(s) by mouth 
every 4 to 6 hours as needed for pain Disp #*18 Tablet 
Refills:*0
13. Acetaminophen 650 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Back pain

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, you were admitted to ___ where 
you presented to the Emergency Department with complaints of 
back pain that started after sustaining a fall.  Your fall was 
likely to secondary to receiving an extra dose of your diuretics 
because you were gaining weight.  You became dizzy and 
lightheaded after losing too much fluid, which provoked the 
fall.  You had multiple imaging tests of your head, back, hips 
and chest all of which were negative for any fractures.  You 
were treated with Tylenol and Vicodin for your back pain.  We 
also placed a lidocaine patch on your back to help with the 
pain. 

In addition, your INR (the number measured to follow your 
coumadin) was higher than the therapeutic goal making you at 
increased risk of bleeding.  Because you are at risk of falls 
your coumadin was held.  You should be restarted at a lower 
dose.  Please continue holding your coumadin until you have your 
INR checked on ___ and have your dose adjusted.

Please take all of your medications as prescribed.
 
Followup Instructions:
___